US07521465B2
Step I: Preparation of (S)-2-tert-Butoxycarbonylamino-3-(4-(4-formylphenoxy)phenyl)-propanoic acid
Dissolve N-tert-butoxycarbonyl-L-tyrosine (2.42 Kg, 8.3 moles) in dry DMF (7.26 L) under argon and still till complete dissolution. Add K2CO3 (3.57 Kg, 25.81 moles), 4-fluorobenzaldeyde (5.34 Kg, 43.01 moles) and stir at 70±5° C. for 48 h under argon. Cool the reaction mixture less than 30° C. Poured the reaction mixture in water (75 L) and stir for 15 min. Add ethyl acetate (40 L) and stir for 30 min. Separate the organic layer and aqueous layer was acidified with HCl (6M) to pH 2. Solid precipitated was dissolved in ethyl acetate (40 L) and aqueous layer was separated. Organic layer was washed with brine (40 L), dried on sodium sulfate and evaporate solvent under reduced pressure. Observed HPLC purity (93.4%) and chiral purity by HPLC (100%). Dry with anhydrous MgSO4 and evaporate under reduced pressure. Pale yellow solid (3.06 Kg, 99.3%). 1H NMR (300 MHz, DMSO-d6): 9.89 (s, 1H), 7.82 (d, J=8.4 Hz, 2H), 7.23 (d, J=8.4 Hz, 2H), 7.00 (overlapped d, J=9.0 Hz, 4H), 4.63 (m, 1H), 3.2 (m, 1H), 3.06 (m, 1H), 1.40 (s, 9H).

reactant | N-tert-butoxycarbonyl-L-tyrosine | 8.3 moles, 2.42 Kg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C14H19NO5
reactant | K2CO3 | 25.81 moles, 3.57 Kg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-fluorobenzaldeyde | 43.01 moles, 5.34 Kg | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | ethyl acetate | 40 L | C(C)(=O)OCC | C4H8O2
solvent | DMF | 7.26 L | CN(C)C=O | C3H7NO
solvent | water | 75 L | O | H2O
product | (S)-2-tert-Butoxycarbonylamino-3-(4-(4-formylphenoxy)phenyl)-propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC1=CC=C(C=C1)C=O | C21H23NO6
